US06441052B1
5-Cyclopentylhexanal (4.2 g; 25 mmol) in ethanol (40 ml) was added to sodium borohydride (1.2 g; 32 mmol) suspended in the same solvent (50 ml) at 10° C. The reaction mixture was stirred at room temperature for 2 hours and then 1 N HCl (50 ml) was added dropwise at 0° C. The mixture was diluted with MTBE (150 ml), the organic layer separated, washed with brine (3×250 ml), dried (MgSO4), concentrated in vacuo, and bulb-to-bulb distilled (125° C./0.2 torr) to give 3.4 g (80% yield) of 5-cyclopentylhexan-1-ol.

reactant | 5-Cyclopentylhexanal | 25 mmol, 4.2 g | C1(CCCC1)C(CCCC=O)C | C11H20O
reactant | sodium borohydride | 32 mmol, 1.2 g | [BH4-].[Na+]
reactant | HCl | 1 N, 50 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | MTBE | 150 ml | CC(C)(C)OC | C5H12O
product | 5-cyclopentylhexan-1-ol | 3.4 g, 80% yield | C1(CCCC1)C(CCCCO)C | C11H22O
